US05641789
1-(2-Benzyloxy-5-methoxyphenyl)-3-(3-nitrophenyl)-prop-2-en-1-one
To a stirred solution of 13.5 g (0.053 mole) of 5-methoxy-2-benzyloxyacetophenone in 100 ml absolute methanol at ambient temperature was added 2.84 g (0.053 mole) sodium methoxide. After 20 minutes, 8.0 g (0.053 mole) 3-nitrobenzaldehyde was added and the reaction mixture was stirred at ambient temperature for 18 hours. The resulting precipitate was filtered, washed with absolute methanol and then dried in vacuo to afford 20.2 g (98%) the title product as a solid, mp 108°-110° C. Analysis calculated for C23H19NO3 : C, 70.94; H, 4.92; N, 3.60. Found: C, 71.07; H, 4.47; N, 3.46.

reactant | 5-methoxy-2-benzyloxyacetophenone | 0.053 mole, 13.5 g | COC=1C=CC=C(COCC(=O)C2=CC=CC=C2)C1 | C16H16O3
reactant | sodium methoxide | 0.053 mole, 2.84 g | C[O-].[Na+]
reactant | 3-nitrobenzaldehyde | 0.053 mole, 8.0 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | methanol | 100 ml | CO | CH4O
product | 1-(2-Benzyloxy-5-methoxyphenyl)-3-(3-nitrophenyl)-prop-2-en-1-one | 20.2 g, 98% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC)C(C=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C23H19NO5
